US07115598B2
1,3-Dihydro-4-[1-(2-acetylamino-4-chlorophenyl)ethyl]-3-(4-chlorophenyl)-7-iodo-1,4-benzodiazepine-2,5-dione
Acetyl chloride (15 μL, 0.212 mmol) was added at 0° C. under argon to a solution of 1,3-dihydro-4-[1-(2-amino-4-chlorophenyl)ethyl]-3-(4-chloropenyl)-7-iodo-1,4-benzodiazepine-2,5-dione (100 mg, 0.177 mmol), in tetrahydrofuran (5 mL) and chloroform (5 mL). Then, triethylamine (30 μL, 0.21 mmol) was added drop wise and the reaction mixture was allowed warm up to room temperature. After 30 minutes, the solution was concentrated under reduced pressure and the residue was petitioned between ethylacetate and 1N sodium bicarbonate. Organic layer was dried (Na2SO4), evaporated, and the residue was purified by column chromatography to give the title compound (49 mg, 45%) as a colorless powder: 1H NMR (400 MHz, CDCl3) δ 1.81 (d, J=6.8 Hz, 3H), 2.44 (s, 3H), 5.33 (s, 1H), 6.37 (q, J=6.8 Hz, 1H), 6.47 (d, J=8.4 Hz, 2H), 6.55 (d, J=8.4 Hz, 1H), 6.98 (d, J=8.4 Hz, 2H), 7.03 (dd, J=8.4 Hz, 2.0 Hz, 1H), 7.36 (d, J=8.4 Hz, 1H), 7.59 (dd, J=8.4 Hz, 2.0 Hz, 1H), 7.98 (d, J=2.0 Hz, 1H), 8.28 (br s, 1H), 8.54 (d, J=2.0 Hz, 1H), 9.94 (s, 1H). Mass spectrum (LCMS, ESI pos.): Calcd for C25H20Cl2IN3O3: 607; found: 608 (M+H)+.

reactant | Acetyl chloride | 0.212 mmol, 15 μL | C(C)(=O)Cl | C2H3ClO
reactant | 1,3-dihydro-4-[1-(2-amino-4-chlorophenyl)ethyl]-3-(4-chloropenyl)-7-iodo-1,4-benzodiazepine-2,5-dione | 0.177 mmol, 100 mg | NC1=C(C=CC(=C1)Cl)C(C)N1C(C(NC2=C(C1=O)C=C(C=C2)I)=O)C2=CC=C(C=C2)Cl | C23H18Cl2IN3O2
reactant | triethylamine | 0.21 mmol, 30 μL | C(C)N(CC)CC | C6H15N
solvent | tetrahydrofuran | 5 mL | O1CCCC1 | C4H8O
solvent | chloroform | 5 mL | C(Cl)(Cl)Cl | CHCl3
product | 1,3-Dihydro-4-[1-(2-acetylamino-4-chlorophenyl)ethyl]-3-(4-chlorophenyl)-7-iodo-1,4-benzodiazepine-2,5-dione | 49 mg, 45% | C(C)(=O)NC1=C(C=CC(=C1)Cl)C(C)N1C(C(NC2=C(C1=O)C=C(C=C2)I)=O)C2=CC=C(C=C2)Cl | C25H20Cl2IN3O3
